US04910190
a. 1-Naphthalene sulfonamide
Ammonia was passed (for 5 min) into a stirred solution of 1-naphthalenesulfonyl chloride (5.0 g, 22 mmol) and anhydrous Et2O (400 ml) at -78°. The resulting mixture was stirred at -78° for 1 hr, allowed to warm to room temperature, and stirred overnight. The Et2O was removed under vacuum to leave a white powder which was washed with water and dried under vacuum to give 3.2 g (70%) of the title compound as a white powder, m.p. 152°-153° C.

reactant | Ammonia | N | H3N
reactant | 1-naphthalenesulfonyl chloride | 22 mmol, 5.0 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | Et2O | 400 ml | CCOCC | C4H10O
product | 1-Naphthalene sulfonamide | 3.2 g, 70% | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N | C10H9NO2S
